US06821980B1
(7a) 5-(3′-Amino-6-cyclopropylmethoxy-2-ethoxy-biphenyl-4-ylmethyl)-pirimidine-2,4-diamine (Method α: Alkylation with Bromide)
3′-Amino-4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-biphenyl-2-ol (351 mg; 1 mmol) is dissolved in dimethylformamide (22.5 ml; dried over a molecular sieve), while gassing with argon, and potassium tert-butylate (172 mg; 1.5 mmol) is added at room temperature. After the mixture has been stirred for one hour, bromomethyl-cyclopropane (0.124 ml; 1.3 mmol) is added and stirring is continued for 1 hour at a bath temperature of 60° C. The reaction mixture is then cooled to room temperature and concentrateds The residue is taken up in water/ethyl acetate and the mixture is poured into a separating funnel and extracted by shaking. The aqueous phase is separated off and re-extracted once with ethyl acetate. The combined organic phases are washed with an aqueous saturated sodium chloride solution, dried over magnesium sulphate, filtered with suction and concentrated. The residue is chromatographed over silica gel (21 g) with methylene chloride/methanol/NH4OH conc. (19/1/0.05). The pure fractions are concentrated and the residue is stirred with diethyl ether (10 ml) for 1 hour, filtered off with suction, rinsed with diethyl ether and dried under a high vacuum.

reactant | 3′-Amino-4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-biphenyl-2-ol | 1 mmol, 351 mg | NC=1C=C(C=CC1)C=1C(=CC(=CC1OCC)CC=1C(=NC(=NC1)N)N)O | C19H21N5O2
reactant | potassium tert-butylate | 1.5 mmol, 172 mg | CC(C)(C)[O-].[K+]
reactant | bromomethyl-cyclopropane | 1.3 mmol, 0.124 ml | BrCC1CC1 | C4H7Br
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water ethyl acetate | O.C(C)(=O)OCC
product | 5-(3′-Amino-6-cyclopropylmethoxy-2-ethoxy-biphenyl-4-ylmethyl)-pirimidine-2,4-diamine | NC=1C=C(C=CC1)C1=C(C=C(C=C1OCC1CC1)CC=1C(=NC(=NC1)N)N)OCC | C23H27N5O2
